US07091214B2
A solution of 1-(2-aminoethyl)-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine (2.50 g, 6.90 mmol) in chloroform (50 mL) was treated with isopropyl isocyanate (0.65 mL, 6.9 mmol) according to the method described in Examples 377–379. The crude product was purified by column chromatography on silica gel (eluting with 94:6 chloroform:methanol) followed by trituration with acetonitrile (15 mL/g) at 95° C. The mixture was cooled in an ice bath, isolated by filtration, and dried for one hour in a vacuum oven at 100° C. to provide 0.88 g of N-{2-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}-N′-(1-methylethyl)urea as a white solid, mp 194–196° C.

reactant | 1-(2-aminoethyl)-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 6.90 mmol, 2.50 g | NCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=2C=NC=CC2)N)COCC | C20H22N6O
reactant | isopropyl isocyanate | 6.9 mmol, 0.65 mL | C(C)(C)N=C=O | C4H7NO
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{2-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]ethyl}-N′-(1-methylethyl)urea | 0.88 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCNC(=O)NC(C)C)COCC)C=2C=NC=CC2 | C24H29N7O2
